datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1.FC(F)(F)[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S-:10])=[CH:62]1>>C[N+]1=C([C:22](=[CH:21][CH:20]([S:10][C:61]2=[CH:62][C:63](C(F)(F)F)=[CH:64][CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10=20;20,21=21,22;22,23=23"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC>>CC(C)(C1=C(I)C=CC=C1)[O-:21].CC[O:83][P:72]([CH:10]([S:20]C(F)(F)F)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20;20,21=21"
"C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2.CN1CC[C:20](=[O:21])CC1>>CN1CC[C:20]([N:10]2CCC[N+:12]3=[C:11]2[S:62]CC3)([O-:21])CC1 10,11=10,20;12=11,12;20,21=21"
"C1CC[N:72]([C:61]([S-:10])=[S:62])CC1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([S:10][C:61](=[S:62])[N:72]2CCCCC2)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.C1=CC=C([C:61]([CH-:10][C:71](C2=CC=CC=C2)=[O:72])=[O:62])C=C1>>C1=CC=C([CH:20]([CH:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])[CH:21]=[C:22]=[N-:23])C=C1 10=20;20,21=21,22;22,23=23"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][C:11](C)=[CH2:10].N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[C:11](C)[CH2:10][CH:20]1[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:72][C:61]([S-:10])=[S:62].CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC[O:72][C:61]([S:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[S:62] 10=20;20,21=21,22;22,23=23"
"CC[O:62][C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82].[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>CC[O:62][C:81]([CH:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82] 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH2:10][C+:11](C)[CH2:62][Si:63](Cl)(Cl)Cl)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20"
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]#[N:72]>>CC1=CC(C)=C(C(C)C[CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.N#CC1=CC=C([N+:61]#[C-:10])C=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([C:10]#[N+:61]C2=CC=C(C#N)C=C2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"C[C:11](=[CH2:10])[CH2:62][Si:63](C)(C)C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[CH2:62][Si:63](C)(C)C 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:11](=[CH2:10])[O:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:61]/[C:11](=[C:10](\C)[C:72](=[O:73])[O:83]CC)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10](C)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12"
"C[Si:62](C)([C:11](C1=CC=CC=C1)=[CH2:10])[Si:63](C)(C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>C[Si:62](C)([C+:11](C1=CC=CC=C1)[CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1)[Si:63](C)(C)C 10,11=10,20"
